US07727986B2
N′-{4-[2-(3-chloro-2-methyl-phenoxy)-pyrimidin-4-yloxy]-2,5-dimethyl-phenyl}-N-ethyl-N-methyl-formamidine-Process (d1)-Compound (V) to Compound (I)
To a mixture of 293 mg (0.7 mmol) of 4-[2-(3-chloro-2-methyl-phenoxy)-pyrimidin-4-yloxy]-2,5-dimethyl-phenylamine in 20 ml methanol 182 mg (1.05 mmol) of N-(dimethoxymethyl)-N-methyl-ethanamine (77% pure) was added. The reaction mixture was stirred for 20 hrs at 45° C. The reaction mixture was dried over magnesium sulfate concentrated in vacuo and yielded 290 mg (76%) with a purity of 78%; log P (pH 2.3)=2.08.

reactant | 4-[2-(3-chloro-2-methyl-phenoxy)-pyrimidin-4-yloxy]-2,5-dimethyl-phenylamine | 0.7 mmol, 293 mg | ClC=1C(=C(OC2=NC=CC(=N2)OC2=CC(=C(C=C2C)N)C)C=CC1)C | C19H18ClN3O2
reactant | methanol | 1.05 mmol, 20 ml, 182 mg | CO | CH4O
reactant | N-(dimethoxymethyl)-N-methyl-ethanamine | COC(N(CC)C)OC | C6H15NO2
product | N′-{4-[2-(3-chloro-2-methyl-phenoxy)-pyrimidin-4-yloxy]-2,5-dimethyl-phenyl}-N-ethyl-N-methyl-formamidine | ClC=1C(=C(OC2=NC=CC(=N2)OC2=CC(=C(C=C2C)N=CN(C)CC)C)C=CC1)C | C23H25ClN4O2
